US09227910B2
Dinitropropanol (25.5 g, 0.17 mol), 2-butyloctanoic acid (38.1 g, 0.19 mol) and 50 g of polyphosphoric acid were added to 50 mL of dichloroethane and the resulting mixture was slowly stirred using a stirrer. The solution thus obtained was slowly heated to 70° C. and then reacted for 15 hr (overnight). After the reaction, the temperature of the reactor was lowered to room temperature, and the stirrer was powered off. When the temperature of the reactor was room temperature, the dichloroethane layer was decanted, followed by extraction with a 1 N sodium hydroxide aqueous solution and then distillation under reduced pressure, affording 2,2-dinitropropyl-2-butyloctanoate (41.8 g, yield: 74%).

reactant | Dinitropropanol | 0.17 mol, 25.5 g | [N+](=O)([O-])C(CC)(O)[N+](=O)[O-] | C3H6N2O5
reactant | 2-butyloctanoic acid | 0.19 mol, 38.1 g | C(CCC)C(C(=O)O)CCCCCC | C12H24O2
reactant | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | 2,2-dinitropropyl-2-butyloctanoate | 41.8 g, yield: 74% | [N+](=O)([O-])C(COC(C(CCCCCC)CCCC)=O)(C)[N+](=O)[O-] | C15H28N2O6
